US07855290B2
N-{4-[(2-Aminopyridin-4-yl)oxy]-2,3-difluorophenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide
N-(4-{[2-(Aminocarbonyl)pyridin-4-yl]oxy}-2,3-difluorophenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide (295 mg) was dissolved in N,N-dimethylformamide (4 ml). Water (0.0563 ml), [bis(trifluoroacetoxy)iodo]benzene (536 mg) and pyridine (0.303 ml) were added thereto at room temperature in this order, followed by stirring for 25 hr and 10 min. The reaction was stopped by adding a 1N aqueous solution of sodium hydroxide (9 ml), and the reaction mixture was partitioned between ethyl acetate (30 ml) and water (10 ml). The organic layer was washed with water (30 ml) in twice, brine and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure. The resultant residue was purified by silica gel column chromatography (Fuji Silysia NH, eluent; heptane:ethyl acetate=1:3), and fractions containing the target compound were concentrated under reduced pressure. The residue was dried under reduced pressure to provide the titled compound as a pale yellow solid (168.4 mg, 61%).

reactant | N-(4-{[2-(Aminocarbonyl)pyridin-4-yl]oxy}-2,3-difluorophenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 295 mg | NC(=O)C1=NC=CC(=C1)OC1=C(C(=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F)F)F | C23H17F3N4O4
reactant | Water | 0.0563 ml | O | H2O
reactant | [bis(trifluoroacetoxy)iodo]benzene | 536 mg | FC(C(=O)OI(OC(C(F)(F)F)=O)C1=CC=CC=C1)(F)F | C10H5F6IO4
reactant | sodium hydroxide | 9 ml | [OH-].[Na+]
reactant | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 0.303 ml | N1=CC=CC=C1 | C5H5N
product | N-{4-[(2-Aminopyridin-4-yl)oxy]-2,3-difluorophenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 168.4 mg, 61% | NC1=NC=CC(=C1)OC1=C(C(=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F)F)F | C22H17F3N4O3
